US07262212B2
Chloromethyl methyl ether (98 ml, 1292 mmol) and N-ethyldiisopropylamine (234 ml, 1344 mmol) were added to a solution of 3-methyl-2-methylenebutane-1-ol (61.5 g, 615 mmol) prepared in Reference Example 202 in THF (500 ml) while cooling in an ice-bath, and the mixture was stirred at room temperature for 22 hours. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in diethyl ether, and the mixture was washed with water and brine, dried over sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure to afford 2-methoxymethoxymethyl-3-methyl-1-butene (89 g, quantitative) as a colorless oil.

reactant | Chloromethyl methyl ether | 1292 mmol, 98 ml | COCCl | C2H5ClO
reactant | N-ethyldiisopropylamine | 1344 mmol, 234 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-methyl-2-methylenebutane-1-ol | 615 mmol, 61.5 g | CC(C(CO)=C)C | C6H12O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 2-methoxymethoxymethyl-3-methyl-1-butene | 89 g | COCOCC(=C)C(C)C | C8H16O2
